US08049016B2
Preparation of (R)-ethyl 4-methyl-2-(4-methyl-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate
Following the procedure as described in Preparation 4, making variations as required to replace (S)-ethyl 2-(2-aminopropylamino)-4-methylthiazole-5-carboxylate with (R)-ethyl 2-(2-aminopropylamino)-4-methylthiazole-5-carboxylate, the title compound was obtained as a colorless solid (74%): MS (ES+) m/z 269.7 (M+1).

reactant | (S)-ethyl 2-(2-aminopropylamino)-4-methylthiazole-5-carboxylate | N[C@H](CNC=1SC(=C(N1)C)C(=O)OCC)C | C10H17N3O2S
reactant | (R)-ethyl 2-(2-aminopropylamino)-4-methylthiazole-5-carboxylate | N[C@@H](CNC=1SC(=C(N1)C)C(=O)OCC)C | C10H17N3O2S
product | (R)-ethyl 4-methyl-2-(4-methyl-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N[C@@H](C1)C)=O | C11H15N3O3S
